US06949542B2
{5-Methoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-Amino-5-methoxy-phenyl)-carbamic acid tert-butyl ester (Example J12) (179 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as a light brown foam (256 mg).

reactant | (2-Amino-5-methoxy-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 179 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)N)=O | C12H18N2O3
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
product | {5-Methoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C26H27N3O5
